US04166115
7-[2-Methoxyimino-2-{2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl}acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer) (3.5 g.) was suspended in a solution of sodium acetate trihydrate (12.2 g.) in water (30 ml.). The mixture was stirred for 15 hours at ambient temperature. The reaction mixture was saturated with sodium chloride and adjusted to pH 5.0 with conc. hydrochloric acid with stirring and ice-cooling. Precipitating insoluble material was filtered off. The filtrate was adjusted to pH 3.0 with conc. hydrochloric acid and further adjusted to pH 1.5 with 10% hydrochloric acid. Precipitates were collected by filtration and dried to give 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer) (2.1 g.), mp 210° to 220° C. (dec.).

reactant | 7-[2-Methoxyimino-2-{2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl}acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 3.5 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C17H15F3N6O8S2
reactant | sodium acetate trihydrate | 12.2 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 2.1 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C=1N=C(SC1)N | C15H16N6O7S2
